US08557816B2
Step 1: Diethyl 2-((5-bromopyridin-3-ylamino)methylene)malonate
To a 500 mL RBF containing 5-bromopyridin-3-amine (60.0 g, 347 mmol) was added diethyl 2-(ethoxymethylene)malonate (71.0 mL, 354 mmol) and 121 mL of toluene. The reaction mixture was heated to reflux for 3 h. The reaction mixture was allowed to cool RT overnight, and the resulting precipitate was collected by filtration and dried to give the desired product as a white crystalline solid.

reactant | 5-bromopyridin-3-amine | 347 mmol, 60.0 g | BrC=1C=C(C=NC1)N | C5H5BrN2
reactant | diethyl 2-(ethoxymethylene)malonate | 354 mmol, 71.0 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | toluene | 121 mL | C1(=CC=CC=C1)C | C7H8
product | Diethyl 2-((5-bromopyridin-3-ylamino)methylene)malonate | BrC=1C=C(C=NC1)NC=C(C(=O)OCC)C(=O)OCC | C13H15BrN2O4
